US06232290B1
To a slurry of 1-(4-n-butyloxybenzoyl)thiosemicarbazide (20 g) in toluene (213.3 ml) at 40° C., was added dropwise over 30 minutes, methanesulfonic acid (6.92 ml). The mixture was stirred under refluxing for 12 hours. After cooling to 10° C., the sulfonate salt was filtered and dried. The salt was placed in water, the solution was adjusted to pH 9 with 1N sodium hydroxide and extracted with ethyl acetate. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated under reduced pressure to give 2-amino-5-(4-n-butyloxyphenyl)-1,3,4-thiadiazole (4.314 g).

reactant | 1-(4-n-butyloxybenzoyl)thiosemicarbazide | 20 g | C(CCC)OC1=CC=C(C(=O)NNC(=S)N)C=C1 | C12H17N3O2S
reactant | methanesulfonic acid | 6.92 ml | CS(=O)(=O)O | CH4O3S
solvent | toluene | 213.3 ml | C1(=CC=CC=C1)C | C7H8
product | 2-amino-5-(4-n-butyloxyphenyl)-1,3,4-thiadiazole | 4.314 g | NC=1SC(=NN1)C1=CC=C(C=C1)OCCCC | C12H15N3OS
